### PR TITLE
[Merged by Bors] - chore: remove erw from WSeq.bind_assoc

### PR DESCRIPTION
**Pull request by BoltonBailey**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kim-em** [comment]
LGTM, but I'll only delegate as you have this marked as a draft.

bors d+

**Comment by BoltonBailey** [comment]
Looks like delegation doesn't work when it's a draft?

File: Mathlib/Data/WSeq/Relation.lean [hunk 1]
```diff
@@ -541,10 +541,17 @@ theorem join_join (SS : WSeq (WSeq (WSeq α))) : join (join SS) ~ʷ join (map jo
       · exact ⟨s, S, SS, rfl, rfl⟩
       · exact ⟨s, S, SS, rfl, rfl⟩
 
+@[simp]
+theorem bind_assoc_comp (s : WSeq α) (f : α → WSeq β) (g : β → WSeq γ) :
+    bind (bind s f) g ~ʷ bind s ((fun y : WSeq β => bind y g) ∘ f) := by
+  simp only [bind, map_join]
+  rw [← map_comp f (map g), show (fun y ↦ (map g y).join) = join ∘ map g by rfl,
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/WSeq/Relation.lean:548]: Probably you can use `← Function.comp_def` instead

**Comment by fpvandoorn** [comment]
bors merge
